US07442808B2
6-[2-Chloro-4-(trifluoromethyl)phenoxy]-1H-inden-1-one
To a stirred solution of 6-[2-chloro-4-(trifluoromethyl)phenoxy]indan-1-one (200 mg, 0.612 mmol) in toluene (5.0 mL) at 0° C. under nitrogen was added triethylamine (0.104 mL, 0.734 mmol) followed by trimethylsilyl trifluoromethanesulfonate (0.140 g, 0.612 mmol). The reaction warmed to room temperature and stirred for 10 min, then was diluted with diethyl ether and saturated sodium bicarbonate. The aqueous layer was extracted with diethyl ether and the combined organic layers were washed with brine, dried with magnesium sulfate, filtered and concentrated. The resulting residue was dissolved in dichloromethane (1.0 mL) and added via canula at room temperature in the dark to a suspension of Pd(OAc)2 (134 mg, 0.60 mmol) in acetonitrile (4.0 mL). The resulting reaction mixture stirred 1.25 h, then was diluted with diethyl ether, filtered through celite and concentrated to provide the final product as yellow oil which was carried forward without further purification.

reactant | 6-[2-chloro-4-(trifluoromethyl)phenoxy]indan-1-one | 0.612 mmol, 200 mg | ClC1=C(OC2=CC=C3CCC(C3=C2)=O)C=CC(=C1)C(F)(F)F | C16H10ClF3O2
reactant | triethylamine | 0.734 mmol, 0.104 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl trifluoromethanesulfonate | 0.612 mmol, 0.140 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.60 mmol, 134 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-[2-Chloro-4-(trifluoromethyl)phenoxy]-1H-inden-1-one | ClC1=C(OC2=CC=C3C=CC(C3=C2)=O)C=CC(=C1)C(F)(F)F | C16H8ClF3O2
